US05284847
A solution of ethyl 2-bis(t-butoxycarbonyl)amino-4-isopropylthiophene-3-carboxylate (22.5 g, 55 mmol) in methanol (425 ml) was stirred and a solution of potassium hydroxide (14.5 g, 259 ml) in water (145 ml) was added. The mixture was heated at 80° C. for 16 h, cooled to 0° C. and acidified (pH=5) with glacial acetic acid. The precipitate was filtered off and recrystallized from ethyl acetate/petroleum ether to afford 12.4 g (80%) of 2-t-butoxycarbonylamino-4-isopropylthiophene-3-carboxylic acid. M.p. 205°-206° C. 1H-NMR (CDCl3, δ): 1.25 (d, 6H) 1.55 (s, 9H), 3.6 (m, 1H) 6.45 (s, 1H), 7.25 (s, 1H), 10.2 (s, 1H).

reactant | ethyl 2-bis(t-butoxycarbonyl)amino-4-isopropylthiophene-3-carboxylate | 55 mmol, 22.5 g | C(C)(C)(C)OC(=O)N(C=1SC=C(C1C(=O)OCC)C(C)C)C(=O)OC(C)(C)C | C20H31NO6S
reactant | potassium hydroxide | 259 ml, 14.5 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 425 ml | CO | CH4O
solvent | water | 145 ml | O | H2O
product | 2-t-butoxycarbonylamino-4-isopropylthiophene-3-carboxylic acid | 12.4 g, 80% | C(C)(C)(C)OC(=O)NC=1SC=C(C1C(=O)O)C(C)C | C13H19NO4S
